US06610688B2
To a solution of 0.8 g (4.4 mmol) of 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester in 35 mL of water and 15 mL of ethanol was added 0.5 g (8.9 mmol) of potassium hydroxide. The reaction mixture was heated to 100 ° C. for 1 hour, cooled to room temperature, and evaporated ethanol. The water layer was acidified to pH=3 using 2N hydrogen chloride solution. The precipitate was filtered and washed with water to afford 0.67 g (68%) of 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid as a tan solid. 1H NMR (360 MHz, DMSO-d6) δ 12.92 (br s, 1H, CO2H), 12.48 (br s, 1H, NH), 9.76 (s, 1H, CHO-5), 6.63 (s, 1H), 2.28 (s, 3H, CH3). MS m/z 152 [M−1].

reactant | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 4.4 mmol, 0.8 g | C(C)OC(=O)C=1NC(=C(C1)C)C=O | C9H11NO3
reactant | potassium hydroxide | 8.9 mmol, 0.5 g | [OH-].[K+]
solvent | water | 35 mL | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-formyl-4-methyl-1H-pyrrole-2-carboxylic acid | 0.67 g, 68% | C(=O)C1=C(C=C(N1)C(=O)O)C | C7H7NO3
